US09085583B2
A round bottomed flask was charged with a magnetic stir bar and methyl 2-(2-bromophenyl)acetate (25 g, 109 mmol) and THF (50 mL). This solution was cooled to −78° C. before drop wise addition of a 1M solution of LiHMDS in THF (218 ml, 218 mmol). The reaction was stirred for 30 min at −78° C. before addition of 1-(1H-imidazol-1-yl)ethanone (14.42 g, 131 mmol) dissolved in a mixture of THF:DMF (112 mL THF, 24 mL DMF). The solution was stirred for 1 h before quenching with sat'd aqueous NH4Cl (˜250 mL) and diluting with EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc (˜2×250 mL). The combined organic extract was washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified via silica gel chromatography using an eluent of ethyl acetate/hexanes (10:1) to afford methyl 2-(2-bromophenyl)-3-oxobutanoate (32.5 g, 102 mmol, 93% yield).

reactant | methyl 2-(2-bromophenyl)acetate | 109 mmol, 25 g | BrC1=C(C=CC=C1)CC(=O)OC | C9H9BrO2
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1-(1H-imidazol-1-yl)ethanone | 131 mmol, 14.42 g | N1(C=NC=C1)C(C)=O | C5H6N2O
reactant | DMF | 112 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 218 mmol, 218 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | methyl 2-(2-bromophenyl)-3-oxobutanoate | 102 mmol, 32.5 g, 93% yield | BrC1=C(C=CC=C1)C(C(=O)OC)C(C)=O | C11H11BrO3
